US05252575
c) 3-Methoxymethoxypropoxyamine
A solution of N[3-(methoxymethoxy)propoxy]phthalimide (4.5 g, 17 mmol) in dry dichloromethane (50 ml) was cooled to 0°-5° and treated with N-methylhydrazine (1.2 g, 26 mmol). The reaction mixture was stirred for 2 hr then filtered and the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica eluting with hexane:ethyl acetate (60:40) to give the title compound as a colourless oil (1.1 g, 50%). νmax (Film) 3310, 3240, 3160, 2960, 2910, 1590, 1465, and 1380 cm-1 ; δH (CDCl3) 2.07 (2H, quintet, J=6.3 Hz, CH2CH2CH2), 3.38 (3H, s, CH3O), 3.50 (2H, t, J=6.3 Hz, CH2OCH2OCH3), 3.70 (2H, t, J 6.3 Hz, CH2ONH2), 4.66 (2H, s, OCH 2 O), 5.2-5.5 (2H, br.s, D2O exchangeable, NH2).

reactant | N[3-(methoxymethoxy)propoxy]phthalimide | 17 mmol, 4.5 g | COCOCCCON1C(C=2C(C1=O)=CC=CC2)=O | C13H15NO5
reactant | N-methylhydrazine | 26 mmol, 1.2 g | CNN | CH6N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Methoxymethoxypropoxyamine | 1.1 g, 50% | COCOCCCON | C5H13NO3
